US07795256B2
3-Amino-7-(cyclopropylmethyl)-2-nitrothieno[2,3-b]pyridin-6(7H)-one
A mixture of (isothiocyanatomethyl)cyclopropane (3.3 g, 31.13 mmol) (J. Org. Chem., 1972, 37, 1162-1168) and acetonitrile (4 ml) was dissolved in dry THF (50 ml) and cooled to −78° C. under a nitrogen atmosphere. A solution of sodium bis(trimethylsilyl)amide in THF (1.0M, 66 ml, 66 mmol) was added over 10 min and the reaction mixture then allowed to warm to r.t. over 2 h. EtOH (50 ml) and N,N-dimethyluracil (4.8 g, 34.2 mmol) were added and the mixture heated to reflux for 24 h. The mixture was cooled and concentrated in vacuo. The residue was dissolved in acetonitrile (50 ml) and bromonitromethane (7.30 g, 46.7 mmol) was added. The mixture was heated to 55° C. for 18 h then cooled to r.t. and diluted with ice/water (100 ml). The resulting solid was isolated by filtration to give the title compound as a brown solid (3.3 g, 40%). δH (CDCl3) 7.52 (1H, d, J 9.6 Hz), 6.87 (2H, br s), 6.58 (1H, d, J 9.6 Hz), 3.96 (2H, d, J 7.2 Hz), 1.40-1.33 (1H, m), 0.62-0.51 (4H, m). LCMS (ES+) RT 2.92 minutes, 266.0 (M+H)+.

reactant | (isothiocyanatomethyl)cyclopropane | 31.13 mmol, 3.3 g | N(=C=S)CC1CC1 | C5H7NS
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | bromonitromethane | 46.7 mmol, 7.30 g | BrC[N+](=O)[O-] | CH2BrNO2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 66 mmol, 1.0M, 66 ml | C1CCOC1 | C4H8O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 3-Amino-7-(cyclopropylmethyl)-2-nitrothieno[2,3-b]pyridin-6(7H)-one | 3.3 g, 40% | NC1=C(SC=2N(C(C=CC21)=O)CC2CC2)[N+](=O)[O-] | C11H11N3O3S
